US05264430
A mixture of t-butyl 7α-chloro-3-acetoxymethyl-3-cephem-4-carboxylate-1,1-dioxide (1.9 g), methylene chloride (3 ml), dimethylamine hydrochloride (0.817 g), t-butanol (80 ml) and formaldehyde solution (I.10 ml, 37% w/v in water) was heated to reflux at 90° C. for 3 hours. Solvent was removed under reduced pressure and the residue was dissolved in methylene chloride, washed with water, brine, dried and concentrated to give 1.6 g (81.6%) of t-butyl 7α-chloro-2-methylene-3-acetoxymethyl-3-cephem-4-carboxylate-1,1-dioxide, m.p. 148°-149° C. This product without further purification was used in the next step.

reactant | t-butyl 7α-chloro-3-acetoxymethyl-3-cephem-4-carboxylate-1,1-dioxide | 1.9 g | Cl[C@@H]1[C@@H]2N(C(=C(CS2(=O)=O)COC(C)=O)C(=O)OC(C)(C)C)C1=O | C14H18ClNO7S
reactant | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
reactant | dimethylamine hydrochloride | 0.817 g | Cl.CNC
reactant | formaldehyde | 10 ml | C=O | CH2O
solvent | t-butanol | 80 ml | C(C)(C)(C)O | C4H10O
product | t-butyl 7α-chloro-2-methylene-3-acetoxymethyl-3-cephem-4-carboxylate-1,1-dioxide | 1.6 g, 81.6% | Cl[C@@H]1[C@@H]2N(C(=C(C(S2(=O)=O)=C)COC(C)=O)C(=O)OC(C)(C)C)C1=O | C15H18ClNO7S
